US06489513B2
Preparation of (4-Chloro-3-methoxyphenyl)diphenylphosphine oxide
Under argon, 1 mol of Mg turnings and a spatula tip of iodine in a mixture of 100 ml of tetrahydrofuran and 100 ml of toluene were heated to 60° C. Over the course of 10 minutes, 200 g of 5-bromo-2-chloroanisole in a mixture of 200 ml of tetrahydrofuran and 200 ml of toluene were added dropwise. During the dropwise addition, the internal temperature was maintained at 60° C. by cooling. When the dropwise addition was complete, the reaction mixture was heated to reflux temperature and after-stirred for 30 minutes at this temperature. The mixture was then cooled to 0° C. and 236.8 g of diphenylphosphinic chloride were added dropwise over the course of 45 minutes. The internal temperature was maintained during this operation between 0 and 5° C. The reaction mixture was after-stirred for 5 minutes at 0° C., the cooling was switched off, and the mixture was stirred for a further 2 hours. For work-up, the reaction mixture was poured onto 1.6 liter of iced water, the organic phase was separated off, and the aqueous phase was washed again with 2×400 ml of toluene. The combined organic phases were washed with 400 ml of 2.5% strength by weight aqueous soda solution and then with 400 ml of water, and then concentrated on a rotary evaporator to a volume of 200 ml. Then, with stirring, 300 ml of n-pentane were added dropwise. The solid that precipitated out overnight was filtered off with suction, washed with n-pentane, and dried. This gave 203.5 g of a white solid. The yield was 82% and the purity was 94%.

reactant | iodine | II | I2
reactant | 5-bromo-2-chloroanisole | 200 g | BrC=1C=CC(=C(C1)OC)Cl | C7H6BrClO
reactant | diphenylphosphinic chloride | 236.8 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | water | 1.6 liter | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (4-Chloro-3-methoxyphenyl)diphenylphosphine oxide | yield was 82% | ClC1=C(C=C(C=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O)OC | C19H16ClO2P
